US04833164
Methyl 7-(1-benzyloxy-2-naphthyl)-7-hydroxy-5-heptynoate
A solution of 1,1,1-trimethoxy-5-hexyne (3.90 g, 0.023 mole) in dry tetrahydrofuran (50 mL) was stirred at -78° and treated with n-butyllithium (1.6M in hexane; 15 mL, 0.024 mole). The solution was stirred for 30 minutes, then treated with a solution of 1-benzyloxy-2-naphthaldehyde (4.25 g, 0.016 mole) in dry tetrahydrofuran (12 mL). The reaction mixture was allowed to warm to room temperature, stirred for 4 hours, and poured into water. The crude product was isolated by extraction with ether and chromatographed with 3:1 ether/hexane. This afforded the title compound (6.15 g, 97%) as an oil.

reactant | 1,1,1-trimethoxy-5-hexyne | 0.023 mole, 3.90 g | COC(CCCC#C)(OC)OC | C9H16O3
reactant | n-butyllithium | 0.024 mole, 1.6M, 15 mL | C(CCC)[Li]
reactant | 1-benzyloxy-2-naphthaldehyde | 0.016 mole, 4.25 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)C=O | C18H14O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Methyl 7-(1-benzyloxy-2-naphthyl)-7-hydroxy-5-heptynoate | 6.15 g, 97% | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)C(C#CCCCC(=O)OC)O | C25H24O4
